US04826854
A solution of 5 g of ethyl 5,6,7,8,9,10-hexahydro-4-hydroxycycloocta[b]pyridine-3-carboxylate in 20 ml of phosphorus oxychloride is refluxed for one hour and evaporated to dryness under reduced pressure. A solution of the residue in methylene chloride is treated with ice and water, and basified with 10 N sodium hydroxide. The layers are separated, the aqueous phase reextracted with methylene chloride, and the combined organic layers dried with magnesium sulfate, filtered, and solvent removed at reduced pressure to obtain ethyl 5,6,7,8,9,10-hexahydro-4-chlorocycloocta[b]pyridine-3-carboxylate as an oil which solidifies on standing, m.p. 33°-36°.

reactant | ethyl 5,6,7,8,9,10-hexahydro-4-hydroxycycloocta[b]pyridine-3-carboxylate | 5 g | OC1=C2C(=NC=C1C(=O)OCC)CCCCCC2 | C14H19NO3
reactant | phosphorus oxychloride | 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 5,6,7,8,9,10-hexahydro-4-chlorocycloocta[b]pyridine-3-carboxylate | ClC1=C2C(=NC=C1C(=O)OCC)CCCCCC2 | C14H18ClNO2
